*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_GR01_lpe.spi
#else
.include ../../../work/xsch/LELO_GR01.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option GMIN=1e-15 reltol=1e-3
.option itl1=500 itl2=200 itl4=100
.option gmindc=1e-12
.option method=gear

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  pwl 0 0 0.1n 1.8 10u 1.8
VPWRUP PWRUP_1V8 VSS pwl 0 0 0.1n 1.8 10u 1.8

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.option savecurrents
.save all


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

optran 0 0 0 1n 1u 0
op
dc temp -100 125 1
let v_diff = xdut.vr1 - xdut.vr2
let v_diff_amp = xdut.vr2 - xdut.vd1
write {cicname}_temp.raw all v_diff v_diff_amp

*tran 10n 10u 1p
*let v_diff = xdut.vr1 - xdut.vr2
*let v_diff_amp = xdut.vr2 - xdut.vd1
*write
quit


.endc

.end
